US04678499
2-Acetyl-4-nitro 1,3-indanedione
To a solution of 100 g of 3-nitrophthalic acid in 100 mL of pyridine was added 0.8 mL of piperdine followed by 500 g of 2,4-pentanedione at room temperature. The mixture was stirred at 35°-40° C. for 6 hours and then diluted with 100 mL ether. The pyridine salt was filtered oft, washed with 100 ml of ether, dried, suspended in waer, and acidified with 400 mL of 6N HCl. The title compound was filtered off, dried,and recrystallized from ethanol to yield 84 g of yellow crystals, m.p. 148°-150°.

reactant | 3-nitrophthalic acid | 100 g | [N+](=O)([O-])C1=C(C(C(=O)O)=CC=C1)C(=O)O | C8H5NO6
reactant | piperdine | 0.8 mL | N1CCCCC1 | C5H11N
reactant | 2,4-pentanedione | 500 g | CC(CC(C)=O)=O | C5H8O2
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
solvent | ether | 100 mL | CCOCC | C4H10O
product | 2-Acetyl-4-nitro 1,3-indanedione | 84 g | C(C)(=O)C1C(C2=CC=CC(=C2C1=O)[N+](=O)[O-])=O | C11H7NO5
